US05501930
p-nitrobenzaldehyde and N,N-diphenylhydrazine hydrochloride were heated in the presence of potassium acetate as a catalyst in ethanol to obtain p-nitrobenzaldehyde-N,N-diphenylhydrazone.

reactant | p-nitrobenzaldehyde | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | N,N-diphenylhydrazine hydrochloride | Cl.C1(=CC=CC=C1)N(N)C1=CC=CC=C1
catalyst | potassium acetate | C(C)(=O)[O-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | p-nitrobenzaldehyde-N,N-diphenylhydrazone | C1(=CC=CC=C1)N(N=CC1=CC=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1 | C19H15N3O2
